US06265473B1
Preparation of 2,4-dichloro-6-[N-(1-methoxy-2,2,6,6-tetramethyl-4-piperidyl)butylamino]-[1.3.5]-triazine
39.7 g (163 mmoles) of N-(1-methoxy-2,2,6,6-tetramethyl-4-piperidyl)butylamine are slowly added to a solution of 30 g (163 mmoles) of cyanuric chloride in 180 ml of xylene, maintained at room temperature. After the addition, the mixture is stirred for ½ hour at room temperature and subsequently, a solution of 6.8 g (170 mmoles) of sodium hydroxide in 45 ml of water is slowly added, maintaining the temperature at room temperature.

reactant | N-(1-methoxy-2,2,6,6-tetramethyl-4-piperidyl)butylamine | 163 mmoles, 39.7 g | CON1C(CC(CC1(C)C)CCCCN)(C)C | C14H30N2O
reactant | cyanuric chloride | 163 mmoles, 30 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium hydroxide | 170 mmoles, 6.8 g | [OH-].[Na+]
solvent | xylene | 180 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | 45 ml | O | H2O
product | 2,4-dichloro-6-[N-(1-methoxy-2,2,6,6-tetramethyl-4-piperidyl)butylamino]-[1.3.5]-triazine | ClC1=NC(=NC(=N1)Cl)NCCCCC1CC(N(C(C1)(C)C)OC)(C)C | C17H29Cl2N5O
